US07595311B2
To a suspension of sodium hydride (60%, 2.26 g, 56 mmol) was added a solution of 1-benzyl-1H-indol-3-ylacetonitrile (5.7g, 22 mmol) and 1,4-dibrombutane (2.6 ml) in DMSO-ether (10 ml: 80 mL) dropwise and the mixture was stirred for 5 hours at 20° C. Water and hexane were added. Solid was collected by filtration and washed with water and hexane to give 1-(1-benzyl-1H-indol-3-yl)cyclopentanecarbonitrile (5.3 g). MS (ES): 301 (MH+).

reactant | sodium hydride | 56 mmol, 2.26 g | [H-].[Na+]
reactant | 1-benzyl-1H-indol-3-ylacetonitrile | 22 mmol, 5.7g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC#N | C17H14N2
reactant | 1,4-dibrombutane | 2.6 ml | BrCCCCBr | C4H8Br2
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 1-(1-benzyl-1H-indol-3-yl)cyclopentanecarbonitrile | 5.3 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C1(CCCC1)C#N | C21H20N2
